US09238026B2
Step 1: Preparation of intermediate cyclohex-1-en-1-yl trifluoromethanesulfonate (29a)
At −78° C., n-butyllithium (1.6 M in hexanes, 1.40 mL, 2.24 mmol) was added to a solution of diisopropylamine (314 μL, 2.24 mmol) in tetrahydrofuran (4.8 mL). The solution was stirred for 20 minutes, and then a solution of cyclohexanone (200 mg, 2.04 mmol) in tetrahydrofuran (3 mL) was added. After stirring at −78° C. for 1 hour, a solution of N-phenyltrifluoromethanesulfonimide (779 mg, 2.18 mmol) in tetrahydrofuran (3 mL) was added. The reaction was stirred at −78° C. for 1.5 hours and it was warmed at room temperature. After 2.5 hours, the mixture was concentrated under reduced pressure. Then it was partitioned between diethyl ether and an aqueous saturated solution of sodium bicarbonate. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude material was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 98/2) to provide the desired (208 mg, 0.903 mmol, 44%) as a colorless oil.

reactant | n-butyllithium | 2.24 mmol, 1.6 M, 1.40 mL | C(CCC)[Li]
reactant | diisopropylamine | 2.24 mmol, 314 μL | C(C)(C)NC(C)C | C6H15N
reactant | cyclohexanone | 2.04 mmol, 200 mg | C1(CCCCC1)=O | C6H10O
reactant | N-phenyltrifluoromethanesulfonimide | 2.18 mmol, 779 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 4.8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | cyclohex-1-en-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCCCC1)(F)F | C7H9F3O3S
